US05939398
(3β,5α,25R)3-trimethylsilyloxy-spirostan-11-one
Trimethylsilylchloride (3.27 mL, 25.8 mmol) was added to a solution of (3β,5α,25R)3-hydroxy-spirostan-11-one (4.0 g, 9.3 mmol) and triethylamine (6.5 mL, 46 mmol) in dichloromethane (60 mL) at room temperature. One gram of dimethyl aminopyridine was added and the reaction was stirred at room temperature for 12 hours. The reaction was quenched with methanol (1 mL) and diluted with ethyl acetate, washed with water (5×) and brine (1×), dried (Na2SO4), filtered and concentrated in vacuo. The product was triturated with methanol, filtered and dried to afford 3.94 g (85%) product as a white solid. 1H NMR (250 MHz, CDCl3) 6 4.5 (q, 1H, J=6Hz); 3.45 (m, 2H); 2.35 (t, 1H, J=10 Hz); 2.4 (dt, 1H, J=12.2 Hz); 2.2 (s, 2H); 2.1-1.1 (m, 12H); 1.02 (s, 3H); 0.9 (d, 3H, J=7.0 Hz); 0.78 (d, 3H, J=7 Hz); 0.69 (s, 3H); 0.1 (s, 9H).

reactant | Trimethylsilylchloride | 25.8 mmol, 3.27 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | (3β,5α,25R)3-hydroxy-spirostan-11-one | 9.3 mmol, 4.0 g | O[C@@H]1C[C@@H]2CC[C@H]3[C@@H]4C[C@H]5[C@H]([C@H](C)[C@]6(O5)CC[C@@H](C)CO6)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C | C27H42O4
reactant | triethylamine | 46 mmol, 6.5 mL | C(C)N(CC)CC | C6H15N
reactant | dimethyl aminopyridine | One gram | CC1=C(C(=NC=C1)N)C | C7H10N2
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | (3β,5α,25R)3-trimethylsilyloxy-spirostan-11-one | 3.94 g, 85% | C[Si](O[C@@H]1C[C@@H]2CC[C@H]3[C@@H]4C[C@H]5[C@H]([C@H](C)[C@]6(O5)CC[C@@H](C)CO6)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C)(C)C | C30H50O4Si
